US04032521
To a solution of 10 mmoles of disodium 7β-amino-3-acetoxymethyl-3-cephem-4-phosphonate in 100 ml. water and 100 ml. acetone containing 5 g. NaHCO3 is added 20 mmoles of 2-phenyl-2-benzhydryloxycarbonylacetyl chloride in 40 ml. acetone at 0° C. After 1 hour stirring at 0° and 2 hours at 25° acetone is pumped off in vacuo and the aqueous solution added to 100 ml. water and 200 ml EtOAc. The pH is adjusted to 2 with HCl and the ethyl acetate layer separated, dried with MgSO4, filtered and evaporated, affording the product, 3-acetoxymethyl-7β-(2-phenyl-2-benzhydryloxycarbonylacetamido)-3-cephem-4-phosphonic acid.

reactant | disodium 7β-amino-3-acetoxymethyl-3-cephem-4-phosphonate | 10 mmoles | N[C@H]1[C@@H]2N(C(=C(CS2)COC(C)=O)P([O-])(=O)[O-])C1=O.[Na+].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 2-phenyl-2-benzhydryloxycarbonylacetyl chloride | 20 mmoles | C1(=CC=CC=C1)C(C(=O)Cl)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17ClO3
reactant | HCl | Cl | ClH
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 5 g | CC(=O)C | C3H6O
product | 3-acetoxymethyl-7β-(2-phenyl-2-benzhydryloxycarbonylacetamido)-3-cephem-4-phosphonic acid | C(C)(=O)OCC=1CS[C@H]2N(C1P(O)(=O)O)C([C@H]2NC(C(C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C31H29N2O9PS
